US06794334B2
Synthesis of [CH3(CH2)16CONHNHCO(CH2)17CH3]
To a solution of 20.0 g of stearic hydrazide, 21.0 g of stearic acid, 10.3 g of 1-hydroxybenzotriazole in 205.0 g of tetrahydrofuran was added 9.3 g of diisopropylcarbodiimide dropwise at room temperature, and the mixture was stirred for 3 hours under reflux. The deposited crystal was filtrated, and re-crystallized from isopropyl alcohol, to obtain 23.9 g of the intended compound.

reactant | stearic hydrazide | 20.0 g | C(CCCCCCCCCCCCCCCCC)(=O)NN | C18H38N2O
reactant | stearic acid | 21.0 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | 1-hydroxybenzotriazole | 10.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylcarbodiimide | 9.3 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | tetrahydrofuran | 205.0 g | O1CCCC1 | C4H8O
product | CH3(CH2)16CONHNHCO(CH2)17CH3 | 23.9 g | CCCCCCCCCCCCCCCCCC(=O)NNC(=O)CCCCCCCCCCCCCCCCCC | C37H74N2O2
